US08877787B2
Synthesis of (1S,5R,6R,7R)-6-[(1E,3R,4R)-3-hydroxy-4-(m-tolyl)-1-pentenyl]-7-hydroxy-2-oxabicyclo[3.3.0]octan-3-one
The crude alcohol, {(1S,5R,6R,7R)-6-[(1E,3R,4R)-3-hydroxy-4-(m-tolyl)-1-pentenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one} (649.9 g) synthesized in Example 4 was dissolved in methanol (740 mL), potassium carbonate (116.3 g) was added, and the mixture was stirred at room temperature for 17 hr. Acetic acid was added to adjust to pH 7, methanol was evaporated, water was added, and the mixture was extracted with ethyl acetate. The extract was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-0/1) to give the title compound (22.3 g). The structural property was as described below.

reactant | (1S,5R,6R,7R)-6-[(1E,3R,4R)-3-hydroxy-4-(m-tolyl)-1-pentenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)[C@H](C)C=1C=C(C=CC1)C | C26H28O5
reactant | potassium carbonate | 116.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 740 mL | CO | CH4O
product | (1S,5R,6R,7R)-6-[(1E,3R,4R)-3-hydroxy-4-(m-tolyl)-1-pentenyl]-7-hydroxy-2-oxabicyclo[3.3.0]octan-3-one | 22.3 g | O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1O)=O)[C@H](C)C=1C=C(C=CC1)C | C19H24O4
